US04307106
Phenethylamine hydrochloride (257 grams, 1.63 moles) and ammonium thiocyanate (123.6 grams, 1.63 moles) were heated to 160° C. in 340 ml bromobenzene under nitrogen. After heating for 90 minutes, the mixture was cooled to room temperature and then to 5° C. This procedure was repeated with a further batch of 257 grams of phenethylamine hydrochloride. The combined solids obtained in the above reaction were stirred in 1.5 l water and filtered. Recrystallization from isopropyl alcohol yielded 261.5 grams (45%) N-phenethylthiourea, m.p. 132°-134°.

reactant | Phenethylamine hydrochloride | 1.63 moles, 257 grams | Cl.C(CC1=CC=CC=C1)N
reactant | ammonium thiocyanate | 1.63 moles, 123.6 grams | [S-]C#N.[NH4+]
reactant | phenethylamine hydrochloride | 257 grams | Cl.C(CC1=CC=CC=C1)N
solvent | bromobenzene | 340 ml | BrC1=CC=CC=C1 | C6H5Br
solvent | water | 1.5 l | O | H2O
product | N-phenethylthiourea | 261.5 grams, 45% | C(CC1=CC=CC=C1)NC(=S)N | C9H12N2S
